US06426345B1
A mixture of 3-amino-2-(3-biphenylylamino)pyridine (196 mg) and 3-(4-hydroxyphenyl)pyruvic acid (162 mg) in ethanol (5 ml) was stirred under reflux for 2 hours. The mixture was cooled and then poured into a mixture of ethyl acetate and aqueous sodium bicarbonate. The organic phase was separated, washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated. The residue was crystallized from methanol to give 4-(3-biphenylyl)-2-(4-hydroxybenzyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (186 mg).

reactant | 3-amino-2-(3-biphenylylamino)pyridine | 196 mg | NC=1C(=NC=CC1)NC=1C=C(C=CC1)C1=CC=CC=C1 | C17H15N3
reactant | 3-(4-hydroxyphenyl)pyruvic acid | 162 mg | OC1=CC=C(C=C1)CC(C(=O)O)=O | C9H8O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(3-biphenylyl)-2-(4-hydroxybenzyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 186 mg | C1(=CC(=CC=C1)N1C2=C(N=C(C1=O)CC1=CC=C(C=C1)O)C=CC=N2)C2=CC=CC=C2 | C26H19N3O2
